US04122183
2-(N-butylamino)-4-methyloxazole (106.7 g., 0.69 m.) and triethylamine (110 g., 0.77 m.) were stirred together in dry benzene (1500 c.c.) during the addition of isobutyryl chloride (81.0 g., 0.76 m.). The mixture was stirred at room temperature for 15 hours and then water (1 liter) was added. After stirring for a further hour the organic phase was separated, and the aqueous phase extracted twice in ether. The combined extract was washed successively with 2N hydrochloric acid (2 × 500 c.c.), 10% sodium carbonate solution (2 × 500 c.c.), and saturated brine (2 × 500 c.c.). Evaporation of the dried organic phase gave an oil, which was distilled to give 2-(N-butyl isobutyramido)-4-methyloxazole, (118 g., 80%), b.p. 75°-76° C/0.15 mm., which existed as an oil at room temperature but crystallised on cooling to 0° C.

reactant | 2-(N-butylamino)-4-methyloxazole | 106.7 g | C(CCC)NC=1OC=C(N1)C | C8H14N2O
reactant | triethylamine | 110 g | C(C)N(CC)CC | C6H15N
reactant | isobutyryl chloride | 81.0 g | C(C(C)C)(=O)Cl | C4H7ClO
reactant | water | 1 liter | O | H2O
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 2-(N-butyl isobutyramido)-4-methyloxazole | 118 g, 80% | C(CCC)N(C(C(C)C)=O)C=1OC=C(N1)C | C12H20N2O2
